US09193720B2
A solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(pyridin-4-ylmethoxy)phenyl)pyridin-3-yl)acetate (0.013 g, 0.023 mmol) and 1M NaOH (0.232 ml, 0.232 mmol) in EtOH (1 mL) was refluxed for 6 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(pyridin-4-ylmethoxy)phenyl)pyridin-3-yl)acetic acid (0.0101 g, 0.019 mmol, 82% yield) as solid. 1H NMR (500 MHz, DMSO-d6) δ 8.58 (d, J=5.5 Hz, 2H), 7.45 (d, J=5.1 Hz, 2H), 7.25 (d, J=7.7 Hz, 1H), 7.14-7.05 (m, 3H), 5.86 (s, 1H), 5.32-5.23 (m, 2H), 3.22 (d, J=12.1 Hz, 1H), 2.78 (t, J=12.3 Hz, 1H), 2.44 (s, 3H), 2.17 (d, J=11.4 Hz, 1H), 2.06 (s, 3H), 1.95-1.86 (m, 1H), 1.53-1.44 (m, 1H), 1.33-1.23 (m, 1H), 1.19-1.14 (m, 1H), 1.13 (s, 9H), 1.00 (d, J=12.5 Hz, 1H), 0.85 (s, 3H), 0.56 (s, 3H). LCMS (M+H)=532.25.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(pyridin-4-ylmethoxy)phenyl)pyridin-3-yl)acetate | 0.023 mmol, 0.013 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=NC=C1)C)C | C34H45N3O4
reactant | NaOH | 0.232 mmol, 1M, 0.232 ml | [OH-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(pyridin-4-ylmethoxy)phenyl)pyridin-3-yl)acetic acid | 0.019 mmol, 0.0101 g, 82% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=NC=C1)C)C | C32H41N3O4
